US08222424B2
5-(4-Methoxy-benzoyl)-2-methylsulfanyl-benzenesulfonamide
To a solution of 2-fluoro-5-(4-methoxy-benzoyl)-benzenesulfonamide (0.15 g, 0.48 mmol) dissolved in dioxane (3 mL) is added sodium thiomethoxide (0.041 g, 0.57 mmol). The reaction mixture is heated at 90° C. for 4 h and then cooled to room temperature and concentrated in vacuo. The residue is partitioned between water and methylene chloride, and the aqueous phase is extracted with methylene chloride three times. The combined organic extracts are washed with a saturated sodium chloride solution, dried with magnesium sulfate, and concentrated in vacuo. Purification by silica gel chromatography (50% ethyl acetate-hexane) gives 0.11 g (68%) of the title compound as a white solid. 1H NMR (CDCl3): δ 8.4 (d, J=2 Hz, 1H), 7.90 (dd, J=8, 2 Hz, 1H), 7.80 (d, J=9 Hz, 2H), 7.50 (d, J=8 Hz, 1H), 7.00 (d, J=9 Hz, 2H), 5.20 (s, 2H), 3.90 (s, 3H), 2.65 (s, 3H). Analytics calculated for C15H15NO4S2: C, 53.04; H, 4.48; N, 4.15. Found: C, 52.67; H, 4.57; N, 4.08. MS (m/z): 336 (M−1).

reactant | 2-fluoro-5-(4-methoxy-benzoyl)-benzenesulfonamide | 0.48 mmol, 0.15 g | FC1=C(C=C(C=C1)C(C1=CC=C(C=C1)OC)=O)S(=O)(=O)N | C14H12FNO4S
reactant | sodium thiomethoxide | 0.57 mmol, 0.041 g | C[S-].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 5-(4-Methoxy-benzoyl)-2-methylsulfanyl-benzenesulfonamide | 0.11 g, 68% | COC1=CC=C(C(=O)C=2C=CC(=C(C2)S(=O)(=O)N)SC)C=C1 | C15H15NO4S2
